US08754114B2
Step 2: 7-chloro-3-iodoimidazo[1,2-b]pyridazine
N-Iodosuccinimide (2.17 g, 9.65 mmol) was added to a solution of 7-chloroimidazo[1,2-b]pyridazine (0.988 g, 6.43 mmol) in N,N-dimethylformamide (25 mL). The reaction mixture was stirred at r.t. overnight. The mixture was diluted with ethyl acetate, washed with water and brine. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexane (gradient: 0-50%) to afford the desired product (1.40 g, 77.9%). LCMS (M+H)+: m/z=279.9/281.9.

reactant | N-Iodosuccinimide | 9.65 mmol, 2.17 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 7-chloroimidazo[1,2-b]pyridazine | 6.43 mmol, 0.988 g | ClC1=CC=2N(N=C1)C=CN2 | C6H4ClN3
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-chloro-3-iodoimidazo[1,2-b]pyridazine | 1.40 g, 77.9% | ClC1=CC=2N(N=C1)C(=CN2)I | C6H3ClIN3
